series-rlc: Series RLC, output across resistor
* Ideal linear signal model; opamps have no supply or output limits.
V1 vin 0 DC 1 AC 1
R1 vin rl 100
L1 rl lc 0.01
C1 lc 0 9.9999999999999995e-07
.ac lin 1 10000 10000
.control
set filetype=ascii
set numdgt=15
run
write result.raw all
quit
.endc
.end
